2195-01-03 11:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2195-1-2**] 07:56 PM
   - Pt
s bld cx from the ED [**3-21**] + GPC awaiting speciation, pt started on
   Vancomycin and Ceftriaxone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-3**] 08:22 AM
   Ceftriaxone - [**2195-1-3**] 10:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-3**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 77 (75 - 82) bpm
   BP: 101/48(62) {83/25(43) - 115/54(68)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
             Total In:
                                                                     30 mL
                                                                  1,343 mL
   PO:
             TF:
   IVF:
                                                                     30 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    725 mL
   Urine:
                                                                    250 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -220 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   S: Pt states he feels fine, denies any n/v/f/c, cough/cold symptoms,
   states he is urinating a lot after he received the IV fluids.
   Physical Examination
   GEN: Well-appearing Caucasian Male with RIJ in NARD
   HEENT: EOMI, PERRL, sclera anicteric, MMM
   NECK: Unable to assess JVP, no L sided carotid bruits
   COR: RRR, normal S1 S2, holosystolic II/VI murmur noted over Rt Upper
   sternal border
   PULM: RLL crackles otherwise CTAB
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ pulses
   NEURO: alert, oriented to person, place, and time. Pt does take time to
   answer questions (in rehab noted thought to be attributed to anoxic
   injury) CN II
 [**Last Name (LF) 3485**], [**First Name3 (LF) **], XII grossly intact. Moves all 4 extremities.
   Strength 5/5 in upper and lower extremities.
   Labs / Radiology
   89 K/uL
   8.8 g/dL
   76 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   131 mEq/L
   25.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2195-1-2**]  11:27 PM
                             [**2195-1-3**]  04:37 AM
   WBC
   8.5
   6.9
   Hct
   23.1
   25.0
   Plt
   92
   89
   Cr
   1.1
   1.1
   Glucose
   144
   76
   Other labs: PT / PTT / INR:24.6/34.2/2.4, ALT / AST:24/21, Alk Phos / T
   Bili:53/1.1, Differential-Neuts:74.7 %, Lymph:17.2 %, Mono:4.3 %,
   Eos:3.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:128 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   # Bacteremia: Currently does not meet SIRS criteria. Pt admitted with
   +GPC x 1 bottle from cardiac rehab which grew within 24 hours from
   [**1-1**]. Pt was started in rehab on Flagyl (day #1 [**2195-1-1**]) for empiric
   treatment and concerned for infection of pacemaker wires. Of note pt
   also has a SEM II/VI murmur today that has not His last episode of
   fever was yesterday, though he still feels weak. BP since admission
   have also been noted to be slightly below pt's baseline (110-120s) in
   the low 100s pt had central line placed in ED. Pt
s ED cultures from
   yesterday afternoon turned positive 4/4 bottles +GPC early this AM.
   Concerning that pt
s bld cultures turned positive so quickly, will
   await speciation and sensitivities. Will start on Vancomycin given his
   history of prolonged intubated and hospitalization for MRSA coverage.
   Will also started Ceftriaxone for Strep coverage. As pt received a dose
   of Zosyn in the ED will not add Pseudomonal coverage at this time. If
   pt does start to decompensate will consider starting Pseudomonal
   coverage.
   - f/u OSH bld cultures, f/u ED bld culture speciation
   - Echo to assess for endocarditis (also from d/c summary pt was due to
   have a repeat echo to check EF). Will discuss with Cards whether they
   would prefer a TTE or a TEE.
   # Hypotension: Pt noted to be hypotensive in the ED with SBP will
   continue small 500cc bolus. Pt likely hypovolemic given his reported
   decrease in urine output over the past few days and Creatinine of 1.3.
   Last night pt
s SBP decreased to low 80s, however he was mentating
   well. Given his low Hct a unit was type and cross matched last night
   however his BP responded to a 250cc bolus. Given his poor EF and the
   fact that he received 4l in the ED transfusion was delayed to due
   concerns of inducing a hypervolemic state. Would accept a sBP of 90s
   when pt is sleeping as long as he is mentating well.
   - Monitor SBP. Allow SBP 90s during sleep
   - Will continue bolus NS, caution as pt has EF of 20-25%
   - 1 unit has been cross matched
   - Will hold BP regimen
   # sCHF: Pt has EF of 20-25% during an Echo following his admission for
   V fib arrest. Pt currently on Metoprolol 25mg daily, Spironolactone
   25mg daily
   - Will hold BP regimen given pt's hypotensive state
   - Will be cautious with IVF hydration given low EF
   - Will obtain Echo today
   -Pt currently not on ACEI or [**Last Name (un) 284**] on last CCU hospitalization pt was on
   Lisinopril but d/c'd without it.
   # Hyponatremia: Most likely hypovolemic hypotension, will continue to
   follow q6hr Na and assess response to NS.
   # A. Fib: Pt has history of A. fib on Coumadin and Amiodarone for
   rhythm control. EKG shows sinus rhythm, dificult to read p waves given
   ventricular pattern from pacemaker.
   - Will place pt on Heparin gtt in case he needs to undergo any
   procedures.
   # CAD: Will continue ASA, Simvastatin. Will continue Metoprolol when
   pt's presures improve.
   # CRI: Pt's current Creatinine noted to be back to his lowest level of
   1.1, on review of [**Hospital **] rehab records show his lowest Creatinine to be
   1.25 from several days ago. Pt's Creatinine appears to have responded
   to fluid hydration and most likely is pre-renal will continue to trend.
   -Trend Creatinine
   # NIDDM: Will continue ISS and Glargine and monitor CBGs QAC+QHS. Will
   place on Cardiac/Diabetic diet.
   # FEN: Will start on pt on cardiac/diabetic diet, replete lytes PRN
   # PPx: Already on Coumadin , PPI.
   # h.o. V. fib: Pt was recently admitted to CCU following a 6 minute
   episode of V. fib arrest. He currently has a PPM, he is scheduled to
   have an ICD upgrade and possible LV lead on [**1-9**] with Dr. [**Last Name (STitle) **].
   Cardiology is aware of his admission and currently and no plans for ICD
   whilst there is a question he may be bacteremic.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2195-1-2**] 07:56 PM
   20 Gauge - [**2195-1-2**] 07:56 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: DVT
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   His blood culture have since returned positive [**3-21**] for GPC
s overnight.
   He remains fluid sensitive but no longer hypotensive and actually would
   like to advance diet today. He denies dyspnea. Rt IJ line placed in EW
   but he has not needed pressors thus far.
   Exam notable for Tm of 99. BP of 101/58 HR 78 RR of 12 with sats of 99%
   on RA . he is oriented to time and place and person and has excellent
   air entry in all lung fields. He does manifest a [**2-20**] PSM at left
   sternal border but there are no features of systemic embolization. He
   has hypoesthesia in ulnar distribution of right hand but strength is
   preserved. ? splinter hemorrhage in subungual region of right ring
   finger will need to be followed.
   Labs notable for WBC 6.9K, HCT of 25, K+ of 3.8 , Cr of 1.1 ( better) ,
   lactate of 1.5. CXR with cardiomegaly but no infiltrate or effusions ,
   EKG is paced at 75.
   Agree with plan to workup for endocarditis on account of high grade
   bactermia and sepsis. He has not shown signs of persistent hemodynamic
   instability and is fluid sensitive. He will need TTE ( possibly TEE)
   and IV antibiotics today ( Vanco/ CFXN). We will follow for stigmata of
   peripheral embolization closely. RIJ line is likely contaminated too
   but would hold off on D/Cing this altogether till we are sure he does
   not need pressors over next 24 hours. If there is evidence for
   vegetation, will request cardiology and cardiothoracic staff to see
   over weekend.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2195-1-3**] 01:57 PM ------

2195-01-04 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
   - We were unable to get him an echo on Sat.
   - His BCx grew out enterococcus which was sensitive to both amp and [**Doctor Last Name **]
   so his ceftriaxone and vanc were dc'ed and he was started on 2 gm IV
   amp q4h.
   - His SBPs decreased to the 80's while sleeping and he was given a 250
   cc NS bolus x 2 with increase in his pressures to the 100's to 110's.
   CVP was 12.  Lactate was stable at 1.0 and mixed venous O2 sat was 59.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-3**] 08:22 AM
   Ceftriaxone - [**2195-1-3**] 10:07 AM
   Ampicillin - [**2195-1-4**] 04:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.2
C (95.4
   HR: 78 (75 - 79) bpm
   BP: 116/57(71) {82/23(41) - 118/78(87)} mmHg
   RR: 15 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  2,290 mL
                                                                    772 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                  1,090 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    300 mL
   Urine:
                                                                  1,200 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   9.0 g/dL
   78 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   131 mEq/L
   25.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2195-1-2**]  11:27 PM
                             [**2195-1-3**]  04:37 AM
                             [**2195-1-4**]  04:49 AM
   WBC
   8.5
   6.9
   5.7
   Hct
   23.1
   25.0
   25.5
   Plt
   92
   89
   100
   Cr
   1.1
   1.1
   1.0
   Glucose
   144
   76
   78
   Other labs: PT / PTT / INR:23.2/33.0/2.2, ALT / AST:24/21, Alk Phos / T
   Bili:53/1.1, Differential-Neuts:74.7 %, Lymph:17.2 %, Mono:4.3 %,
   Eos:3.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:128 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 .H/O CARDIAC ARREST
 .H/O ATRIAL FIBRILLATION (AFIB)
 BACTEREMIA
 .H/O VENTRICULAR FIBRILLATION (VF)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   # Enterococcus Bacteremia: Cultures grew out enterococcus sensitive to
   vanco and amp.  Did not meet SIRS criteria on admission. Pt admitted
   with +GPC x 1 bottle from cardiac rehab which grew within 24 hours from
   [**1-1**]. Pt was started in rehab on Flagyl (day #1 [**2195-1-1**]) for empiric
   treatment and concerned for infection of pacemaker wires. Of note pt
   also has a SEM II/VI murmur that may be new - unclear from old records.
   His last episode of fever was day of admission and he is feeling
   better.. BP since admission have also been noted to be slightly below
   pt's baseline (110-120s) in the low 100s pt had central line placed in
   ED. Pt
s ED cultures from admission turned positive 4/4 bottles +GPC.
   Initially there was concerning that pt
s bld cultures turned positive
   so quickly and he was started on vanco and ceftriaxone which were
   d/c'ed after speciation
   - f/u and send survaillence cultures
   - TEE per cardiology to assess for endocarditis (also from d/c summary
   pt was due to have a repeat echo to check EF) - already ordered
   - cardiology consult to determine if pacer needs to be removed in light
   of bacteremia
 new pacer placement delayed given bacteremia
   - continue ampicillian for enterococcus (sensitive to vancomycin)
   - will keep IJ line in for now, possible PICC tomorrow, will need to
   send tip for culture
   # Hypotension: Overnight was hypotensive to 70
s while sleeping and
   [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) **] t100
s upon awakening, patient was asymptomatic throughout.
   Recevied 500cc bolues with increase in pressures.  On presentation to
   the [**Name (NI) **], pt was noted to be hypotensive with SBP will continue small
   500cc bolus. Pt likely hypovolemic given his reported decrease in urine
   output over the past few days and Creatinine of 1.3. Last night pt
   SBP decreased to low 80s, however he was mentating well. Given his low
   Hct a unit was type and cross matched last night however his BP
   responded to a 250cc bolus. Given his poor EF and the fact that he
   received 4l in the ED transfusion was delayed to due concerns of
   inducing a hypervolemic state. Would accept a sBP of 90s when pt is
   sleeping as long as he is mentating well.
   - Monitor SBP. Allow SBP 80s during sleep
   - 1 unit has been cross matched
   - continue holding BP meds
   # Thrombocytopenia:  99 this morning, baseline 200-300, unclear cause,
   has been recently hospitalized and likely received heparin products.
   INR 2.2.
   - will send smear
   - no HIT ab for now, will send if continues to trend down
    # sCHF: Pt has EF of 20-25% during an Echo following his admission for
   V fib arrest. Pt currently on Metoprolol 25mg daily, Spironolactone
   25mg daily
   - hold  BP regimen given pt's hypotensive state
   - Will be cautious with IVF hydration given low EF
   - Echo as above
   -Pt currently not on ACEI or [**Last Name (un) 284**] on last CCU hospitalization pt was on
   Lisinopril but d/c'd without it.
   # Hyponatremia: 131 this morning, stable  Most likely 2/2hypovolemic
   hypotension,
   - trend daily
   # A. Fib: Pt has history of A. fib on Coumadin and Amiodarone for
   rhythm control. EKG shows sinus rhythm, dificult to read p waves given
   ventricular pattern from pacemaker.
   - continue to hold coumadin as he is therapeutic
   - will need heparin gtt once subtherapeutic in case he needs to undergo
   any procedures.
   # CAD: Will continue ASA, Simvastatin. Will continue Metoprolol when
   pt's presures improve.
    # CRI: 1.0 this morning. Pt's Creatinine appears to have responded to
   fluid hydration and most likely is pre-renal will continue to trend.
   -Trend
   # History of V. fib: Pt was recently admitted to CCU following a 6
   minute episode of V. fib arrest. He currently has a PPM, he is
   scheduled to have an ICD upgrade and possible LV lead on [**1-9**] with Dr.
   [**Last Name (STitle) **]. Cardiology is aware of his admission and currently and no
   plans for ICD whilst there is a question he may be bacteremic.
   # NIDDM: Will continue ISS and Glargine and monitor CBGs QAC+QHS. Will
   place on Cardiac/Diabetic diet.
   ICU Care
   Nutrition:  Cardiac/diabetic diet
   Glycemic Control:  SSI
   Lines:
   Presep Catheter - [**2195-1-2**] 07:56 PM
   20 Gauge - [**2195-1-2**] 07:56 PM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  With patient
   Code status: Full code
   Disposition: ICu
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 3497**] has high grade enterococcal bacteremia and is on IV
   Ampicillin q 4 hrs. he has remained hemodynamically stable with no
   features of peripheral embolic phenomena.
   Exam notable for Tm of 98 BP of 105/76 HR of 85 RR of 14 with sats of
   100% on RA.  His chest is clear to auscultation and I do not appreciate
   a new cardiac murmer.
   Labs notable for WBC of5.7 K, HCT of 25.5 , K+ of 3.8 , Cr of 1.0  CXR
   with mild increased interstitial changes at left base.
   Agree with plan to continue IV antibiotics, follow surveillance
   cultures and resite RIJ line  to PICC or Midline once blood cultures
   are clean. He will need a TEE in next 48 hrs and we will arrange for
   transfer to step down cardiology service if no hemodynamic setbacks
   today. Suspicion for source other than valvular or other endovascular
   site is low. Cardiology service is aware.
   Remainder of plan as outlined above.
   Patient is stable but prognosis is guarded.
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2195-1-4**] 12:48 PM ------

2195-01-05 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cards to do TEE on Tuesday
   - when called out should go to Medicine on [**Location 3503**] bp's remained stable throughout the day
   This am the patient denies pain.  States he still has numbness and
   tingling in his right hand.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-3**] 08:22 AM
   Ceftriaxone - [**2195-1-3**] 10:07 AM
   Ampicillin - [**2195-1-5**] 04:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-5**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 77 (75 - 85) bpm
   BP: 131/56(74) {96/39(53) - 131/60(103)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                  1,980 mL
                                                                    407 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,440 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    645 mL
   Urine:
                                                                  2,640 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -660 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97% on RA
   ABG: ///26/
   Physical Examination
   GEN: Elderly male lying in bed in NAD
   HEENT: EOMI, PERRL, sclera anicteric, MMM, OP clear
   COR: RRR, normal S1 S2, holosystolic II/VI murmur noted over Rt Upper
   sternal border
   PULM: CTAB
   ABD: + BS, soft NTND
   EXT: 2+ pulses
   NEURO: Alert and appropriate
   Labs / Radiology
   123 K/uL
   8.9 g/dL
   72 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.4 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   25.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2195-1-2**]  11:27 PM
                             [**2195-1-3**]  04:37 AM
                             [**2195-1-4**]  04:49 AM
                             [**2195-1-5**]  05:16 AM
   WBC
   8.5
   6.9
   5.7
   4.8
   Hct
   23.1
   25.0
   25.5
   25.6
   Plt
   92
   89
   100
   123
   Cr
   1.1
   1.1
   1.0
   1.1
   Glucose
   144
   76
   78
   72
   Other labs: PT / PTT / INR:20.3/30.2/1.9, ALT / AST:24/21, Alk Phos / T
   Bili:53/1.1, Differential-Neuts:74.7 %, Lymph:17.2 %, Mono:4.3 %,
   Eos:3.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:128 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   [1][**2195-1-5**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2195-1-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2195-1-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2195-1-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2195-1-2**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [6][**2195-1-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {ENTEROCOCCUS FAECALIS}; Aerobic Bottle
   Gram Stain-FINAL; Anaerobic Bottle Gram Stain-FINAL
   EMERGENCY [**Hospital1 **]
   [7][**2195-1-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {ENTEROCOCCUS FAECALIS}; Aerobic Bottle
   Gram Stain-FINAL; Anaerobic Bottle Gram Stain-FINAL
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   76 yo Male with sCHF (EF 20-25% on TTE on [**11-28**]), CAD s/p CABG (3 vs 4?
   vessel), HTN, NIDDM, A-fib on coagulation, s/p PPM, s/p recent CCU stay
   for VF arrest requiring pressor support, h.o. Pseudomonas + bld
   cultures admitted from cardiac rehab for fevers and bacteremia.
   # Enterococcus Bacteremia: Cultures grew out enterococcus sensitive to
   vanco and amp.  Did not meet SIRS criteria on admission. Pt admitted
   with +GPC x 1 bottle from cardiac rehab which grew within 24 hours from
   [**1-1**]. Pt was started in rehab on Flagyl (day #1 [**2195-1-1**]) for empiric
   treatment and concerned for infection of pacemaker wires. Of note pt
   also has a SEM II/VI murmur that may be new - unclear from old records.
   His last episode of fever was day of admission and he is feeling
   better.. BP since admission have also been noted to be slightly below
   pt's baseline (110-120s) in the low 100s pt had central line placed in
   ED. Pt
s ED cultures from admission turned positive 4/4 bottles +GPC.
   Initially he was started on vanco and ceftriaxone which were d/c'ed
   after speciation when he was placed on ampicillin.
   - f/u and send survaillence cultures
   - TEE per cardiology to assess for endocarditis (also from d/c summary
   pt was due to have a repeat echo to check EF) - already ordered
   - Appreciate cardiology consult to determine if pacer needs to be
   removed in light of bacteremia
   - continue ampicillian for enterococcus (sensitive to vancomycin)
   - Will need PICC for long term antibiotics; once placed his IJ can be
   pulled.
   # Hypotension: Two nights agao he  was hypotensive to 70
s while
   sleeping and rose to the 100
s upon awakening, patient was asymptomatic
   throughout. Recevied 500cc bolues with increase in pressures.
   Overnight last night he maintained his pressures (lowest SBP was in the
   90
s).  Would accept a sBP of 80s when pt is sleeping as long as he is
   mentating well when awoken.
   - Monitor SBP. Allow SBP 80s during sleep
   - continue holding BP meds
   # Thrombocytopenia:  Increased to 123 this morning, baseline 200-300,
   unclear cause, has been recently hospitalized and likely received
   heparin products. INR 1.9.  [**Month (only) 11**] have been dilutional from all of the
   fluids he
s received recently.
   - no HIT ab for now, will send if continues to trend down
   # sCHF: Pt has EF of 20-25% during an Echo following his admission for
   V fib arrest. Pt currently on Metoprolol 25mg daily, Spironolactone
   25mg daily
   - hold  BP regimen given pt's recent hypotension
   - Will be cautious with IVF hydration given low EF
   - Echo as above
   - Pt currently not on ACEI or [**Last Name (un) 284**] on last CCU hospitalization pt was on
   Lisinopril but d/c'd without it.  Consider adding back once recovered
   from his acute illness.
   #  Anemia: The patient
s Hct has been in the mid 20
s, today is stable
   at 25.6.  No clinical evidence of bleeding.
   - Continue to trend with a daily Hct.
   - No current idication for transfusion.
    # Hyponatremia: Resolved.  Na 137 today.
    # A. Fib: Pt has history of A. fib on Coumadin and Amiodarone for
   rhythm control. EKG shows sinus rhythm, dificult to read p waves given
   ventricular pattern from pacemaker.  As he will likely have the pacer
   removed, will not restart coumadin (INR 1.9 today).
   - will start a heparin gtt for anticoagulation in case he needs to
   undergo any procedures.
   # CAD: Will continue ASA, Simvastatin. Will continue Metoprolol when
   pt's presures improve.
   # History of V. fib: Pt was recently admitted to CCU following a 6
   minute episode of V. fib arrest. He currently has a PPM, he is
   scheduled to have an ICD upgrade and possible LV lead on [**1-9**] with Dr.
   [**Last Name (STitle) **]. Cardiology is aware of his admission and currently and no
   plans for ICD while there is a question he may be bacteremic.
   - Appreicate cards consult, will f/u recs.
   # NIDDM: BS generally well-controlled.
   - Continue ISS and Glargine and monitor CBGs QAC+QHS. Will place on
   Cardiac/Diabetic diet.
   ICU Care
   Nutrition: Cardiac/diabetic diet
   Glycemic Control:  as above
   Lines:
   Presep Catheter - [**2195-1-2**] 07:56 PM
   20 Gauge - [**2195-1-2**] 07:56 PM
   Prophylaxis:
   DVT: [**Last Name (LF) 751**], [**First Name3 (LF) 116**] place on a hepain gtt today
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to the floor today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 3497**] is feeling progressively better with increasing PO intake.
   Surveillance cultures have been clean thus far. He remains on IV
   Ampicillin for high grade enterococcal bacteremia.
   Exam notable for Tm of 98.6 BP 126/77 HR of 88 RR of 10 with sats of
   99% on RA . RIJ site is clean. Labs notable for WBC 4.8 K, HCT of 25.6
   , plts of 123K , K+ of 3.4, Cr of 1.1 .No new culture data.
   Agree with plan to proceed with TEE in am [**1-6**]. He will transfer to
   cardiology floor on [**Hospital Ward Name 3508**] today and Dr [**Last Name (STitle) **]
s service to
   provide further input based on findings of TEE. I suspect he will need
   at least 6 weeks of IV antibiotics if there is evidence for
   endocarditis. PICC line to be placed accordingly after the procedure.
   Remainder of plan as outlined above.
   Patient is stable
   Total time: 20 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2195-1-5**] 12:28 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);